US05290780
5-(2-Bromophenyl)-1-(trimethylstannyl)-1H-tetrazole
To a solution of 1.50 g of o-bromobenzonitrile in 8.0 ml of toluene is added 1.70 g of trimethyltin azide. The reaction mixture is heated to reflux for 18 hours and then allowed to cool to room temperature. The resulting white precipitate is isolated by filtration and used without purification in the next step.

reactant | o-bromobenzonitrile | 1.50 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | trimethyltin azide | 1.70 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 8.0 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Bromophenyl)-1-(trimethylstannyl)-1H-tetrazole | BrC1=C(C=CC=C1)C1=NN=NN1[Sn](C)(C)C | InChI=1S/C7H4BrN4.3CH3.Sn/c8-6-4-2-1-3-5(6)7-9-11-12-10-7;;;;/h1-4H;3*1H3;/q-1;;;;+1
